US05824690
Combine methyl 3,5-dimethoxy-4-hydroxy-benzoate (2.12 g, 10 mmol) and dimethylformamide (50 mL). Cool in an ice bath. Add portionwise, sodium hydride (0.4 g, 16.7 mmol). after 2 hours, add iodoethane (4 mL, 50 mmol). Warm to ambient temperature. After 18 hours, dilute the reaction mixture with ethyl acetate and extract with water, 1M hydrochloric acid solution, a saturated sodium bicarbonate solution, and then brine. Dry the organic layer over MgSO4, filtered and evaporated in vacuo to give a residue. chromatograph the residue on silica gel eluting with 5% ethyl acetate/hexane to give methyl 3,5-dimethoxy-4-ethoxy-benzoate.

reactant | methyl 3,5-dimethoxy-4-hydroxy-benzoate | 10 mmol, 2.12 g | COC=1C=C(C(=O)OC)C=C(C1O)OC | C10H12O5
reactant | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 16.7 mmol, 0.4 g | [H-].[Na+]
reactant | iodoethane | 50 mmol, 4 mL | ICC | C2H5I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | methyl 3,5-dimethoxy-4-ethoxy-benzoate | COC=1C=C(C(=O)OC)C=C(C1OCC)OC | C12H16O5
